US08541417B2
To a suspension of methyl 6-chloro-5-nitronicotinate (0.108 g, 0.499 mmol), 1-Boc-pyrrole-2-boronic acid (0.210 g, 0.997 mmol), and trans-Dichlorobis(triphenylphosphine)palladium (II) (0.350 g, 0.499 mmol) in Dioxane (Volume: 2.3 mL) was added 2M Sodium carbonate (0.798 mL, 1.596 mmol) at 23° C. The reaction was stirred at 100° C. for 1 hr. The resulting suspension was filtered and rinsed with dioxane and H2O. The filtrate was diluted with EtOAc (20 mL) and the layers were separated. The organic phase was washed with saturated NaHCO3 and brine, dried over MgSO4, filtered, rinsed with EtOAc, and dried in vacuo. The resulting crude material was purified via medium pressure chromatography using a gradient eluant of CH2Cl2/MeOH. The appropriate fractions were combined and concentrated via rotary evaporation to provide methyl 6-(1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl)-5-nitronicotinate (0.0738 g, 0.212 mmol, 42.6% yield) as an orange gummy solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.32 (s, 9 H) 3.96 (s, 3 H) 6.41 (t, J=3.28 Hz, 1 H) 6.65 (dd, J=3.28, 1.77 Hz, 1 H) 7.50 (dd, J=3.28, 1.77 Hz, 1 H) 8.82 (d, J=1.77 Hz, 1H) 9.33 (d, J=1.77 Hz, 1 H). ESI-MS: m/z 348.2 (M+H)+.

reactant | methyl 6-chloro-5-nitronicotinate | 0.499 mmol, 0.108 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | 1-Boc-pyrrole-2-boronic acid | 0.997 mmol, 0.210 g | C(=O)(OC(C)(C)C)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | Sodium carbonate | 1.596 mmol, 2M, 0.798 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | Dioxane | 2.3 mL | O1CCOCC1 | C4H8O2
catalyst | trans-Dichlorobis(triphenylphosphine)palladium | 0.499 mmol, 0.350 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 6-(1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl)-5-nitronicotinate | 0.212 mmol, 0.0738 g, 42.6% yield | C(C)(C)(C)OC(=O)N1C(=CC=C1)C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C16H17N3O6
